US07622481B2
(a) 5-[(2-Bromo-5-methoxy-phenylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione
A solution of 2-bromo-5-methoxy-phenylamine (16.1 g, 80 mmol), 2,2-dimethyl-[1,3]dioxane-4,6-dione (Meldrum's acid) (13.7 g, 95 mmol) and triethyl orthoformate (14.1 g, 95 mmol) in ethanol (82 ml) was heated to reflux for 2 hours then allowed to cool to room temperature. Filtration and drying in vacuo afforded a white solid (25.7 g, 91%)

reactant | 2-bromo-5-methoxy-phenylamine | 80 mmol, 16.1 g | BrC1=C(C=C(C=C1)OC)N | C7H8BrNO
reactant | 2,2-dimethyl-[1,3]dioxane-4,6-dione | 95 mmol, 13.7 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | triethyl orthoformate | 95 mmol, 14.1 g | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | 82 ml | C(C)O | C2H6O
product | 5-[(2-Bromo-5-methoxy-phenylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 25.7 g, 91% | BrC1=C(C=C(C=C1)OC)NC=C1C(OC(OC1=O)(C)C)=O | C14H14BrNO5
